US05703071
A solution of 2-hydroxy-7-hydroxymethyl-4-isopropyl-2,4,6-cycloheptatrien-1-one (844 mg, 4.35 mmol) in dimethylformamide (5 ml) was stirred while 60% oily sodium hydride (191 mg, 4.78 mg) in small portions were added thereto. Subsequently, 3,4-dimethoxyphenethyl iodide (2.54 mg, 8.70 mmol) was added, then the solution was heated at 80° C. for 7 hours. The solution was diluted with dichloromethane, washed with water and dried over sodium sulfate. After solvent was distilled off under reduced pressure, the residue was purified by silica gel column chromatography [eluent: hexane/ethyl acetate (3:2)] to give 169 mg of 2-[2-(3,4-dimethoxyphenyl)ethoxy]-7-hydroxymethyl-4-isopropyl-2,4,6-cycloheptatrien-1-one as a yellowish brown oil (yield: 11%).

reactant | 2-hydroxy-7-hydroxymethyl-4-isopropyl-2,4,6-cycloheptatrien-1-one | 4.35 mmol, 844 mg | OC=1C(C(=CC=C(C1)C(C)C)CO)=O | C11H14O3
reactant | sodium hydride | 191 mg | [H-].[Na+]
reactant | 3,4-dimethoxyphenethyl iodide | 8.70 mmol, 2.54 mg | COC=1C=C(CCI)C=CC1OC | C10H13IO2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[2-(3,4-dimethoxyphenyl)ethoxy]-7-hydroxymethyl-4-isopropyl-2,4,6-cycloheptatrien-1-one | 169 mg, yield: 11% | COC=1C=C(C=CC1OC)CCOC=1C(C(=CC=C(C1)C(C)C)CO)=O | C21H26O5
